data/mechanism_extracts/ChemSci/10.1039_d2sc05423j.json
{"doi": "10.1039_d2sc05423j", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical multicomponent C-H tetrazolation of alkyl arenes and vicinal azidotetrazolation of alkenes using TMSN3 and acetonitrile via radical-cation/carbocation Ritter-type pathway", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "radical_cation", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation: for alkyl arenes, the arene is oxidized to a radical cation that loses a proton to give a benzyl radical, which is further oxidized at the anode to a benzyl carbocation; for alkenes, anodic oxidation generates an azido radical from N3- (from TMSN3) that adds to the alkene, and the resulting C-radical is then oxidized to a β-azido carbocation", "key_intermediates": [{"name": "ethylbenzene radical cation (phenyl radical cation)", "smiles": null, "role": "transient"}, {"name": "benzyl radical (A)", "smiles": "[CH](C)c1ccccc1", "role": "reactive"}, {"name": "benzyl carbocation (B)", "smiles": "[CH+](C)c1ccccc1", "role": "reactive"}, {"name": "Ritter-type nitrilium ion (C)", "smiles": "C[N+]#CC(C)c1ccccc1", "role": "reactive"}, {"name": "azido radical (N3•)", "smiles": "[N]=[N+]=[N-]", "role": "reactive"}, {"name": "β-azido carbon radical from alkene (I)", "smiles": null, "role": "transient"}, {"name": "β-azido carbocation (II)", "smiles": null, "role": "reactive"}, {"name": "1,2-diazide intermediate (III)", "smiles": null, "role": "off_pathway"}], "electron_flow": "For C-H tetrazolation: anode oxidizes the alkyl arene to a radical cation, which deprotonates to a benzyl radical and is oxidized again at the anode to a benzyl carbocation; MeCN traps the cation to form a nitrilium ion, which is attacked by azide to deliver the tetrazole, while protons are reduced at the cathode to H2. For alkenes: anodically generated azido radical adds to the alkene; the resulting β-azido C-radical is further oxidized at the anode to a β-azido carbocation, trapped by MeCN then azide to give the vicinal azidotetrazole.", "rate_determining_step": "Formation of the benzyl cation via stepwise electron-transfer/proton-transfer (ET/PT), as indicated by Hammett ρ = -2.97 (positive charge buildup in the transition state)", "probe_reagents": [{"name": "(1-cyclopropyl-1-phenyl)ethylene (radical clock 54)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 55 isolated (21%, 7.5:1), confirming involvement of an azido radical adding to the alkene"}, {"name": "p-substituted ethylbenzenes (Hammett series)", "smiles": null, "purpose": "other", "observation": "Hammett ρ = -2.97 (r²=0.97), much more negative than typical HAT (ρ > -1), indicating positive charge buildup, inconsistent with HAT and consistent with radical-cation/ET-PT mechanism"}, {"name": "BDE-matched substrate 21'", "smiles": null, "purpose": "other", "observation": "Substrates with similar benzylic BDEs (88 vs 83.3 kcal/mol) but different electronics show distinct reactivity, disproving one-step HAT"}, {"name": "benzyltrimethylsilane (56)", "smiles": "C[Si](C)(C)Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Cleaves C-Si bond to afford tetrazole 7 exclusively (34%), supporting radical-cation intermediate (desilylation) rather than HAT"}, {"name": "TMSN3 omission control (Fig. 2G, with nBu4NHSO4)", "smiles": "C[Si](C)(C)N=[N+]=[N-]", "purpose": "intermediate_trap", "observation": "In absence of TMSN3, Ritter-type acetamide product 57 forms (27%), substantiating involvement of benzyl carbocation/nitrilium intermediate"}, {"name": "Cyclic voltammetry (CV) of ethylbenzene, TMSN3, styrene", "smiles": null, "purpose": "redox_probe", "observation": "TMSN3 Ep/2 = 0.92 V; ethylbenzene Ep/2 = 2.43 V (drops to 2.01 V with HFIP); styrene Ep/2 = 2.21 V — HFIP stabilizes radical cations and enables substrate oxidation; for alkenes TMSN3 is oxidized first"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "kinetic_order", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors explicitly disfavor a HAT pathway for benzyl radical generation (based on Hammett ρ, BDE comparisons, and benzylsilane experiment), favoring stepwise ET/PT via the arene radical cation. For alkenes, two alternative pathways to the diazide byproduct were considered: radical-radical cross-coupling (path b, disfavored due to transient radicals) and polar trapping of carbocation II by N3- (path c, mitigated by large excess of MeCN outcompeting low-concentration TMSN3 on the anode surface). HFIP is critical as co-solvent for stabilizing radical-cation intermediates; electrolyte choice (nBu4NClO4 vs nBu4NBF4 vs nBu4NHSO4) strongly tunes selectivity between azidotetrazolation and competing azidoacetamidation."}
